US08466193B2
To a solution of methyl 1-(2-hydroxyethyl)-1H-indole-6-carboxylate (0.14 g, 0.64 mmol) and Ph3P (0.25 mL, 0.96 mmol) and 3-fluorophenol (0.11 g, 0.96 mmol) in THF (10 mL) was added DIAD (0.19 mL, 0.96 mmol). The solution was stirred 1 hr at room temperature, then concentrated and subjected to flash chromatography (25% ethyl acetate/hexane) to provide 0.22 g (˜100%) of methyl 1-(2-(3-fluorophenoxy)ethyl)-1H-indole-6-carboxylate as a colorless oil.

reactant | methyl 1-(2-hydroxyethyl)-1H-indole-6-carboxylate | 0.64 mmol, 0.14 g | OCCN1C=CC2=CC=C(C=C12)C(=O)OC | C12H13NO3
reactant | Ph3P | 0.96 mmol, 0.25 mL | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-fluorophenol | 0.96 mmol, 0.11 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | DIAD | 0.96 mmol, 0.19 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 1-(2-(3-fluorophenoxy)ethyl)-1H-indole-6-carboxylate | 0.22 g, ~100% | FC=1C=C(OCCN2C=CC3=CC=C(C=C23)C(=O)OC)C=CC1 | C18H16FNO3
